US09227973B2
Step B: Ethyl (6S)-5′-bromo-2′-oxo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate
To a solution of ethyl (6S)-5′-bromo-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate (3.00 g, 7.73 mmol) in THF (30 mL) at 0° C. was added triethylamine (1.29 mL, 9.28 mmol). The resulting mixture was stirred for 10 min, then 2-(trimethylsilyl)ethoxymethyl chloride (1.64 mL, 9.27 mmol) was added dropwise. The reaction mixture was allowed to warm slowly to ambient temperature and stirring was continued for 4 h. The reaction mixture was poured into saturated aqueous sodium bicarbonate (50 mL) and the mixture was extracted with EtOAc (2×75 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:EtOAc-100:0 to 50:50, to give the title compound. MS: m/z=520.3 (M+1).

reactant | ethyl (6S)-5′-bromo-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate | 7.73 mmol, 3.00 g | BrC=1C=C2C(=NC1)NC([C@]21CC=2C(=NC=C(C2)C(=O)OCC)C1)=O | C17H14BrN3O3
reactant | triethylamine | 9.28 mmol, 1.29 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 9.27 mmol, 1.64 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl (6S)-5′-bromo-2′-oxo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate | BrC=1C=C2C(=NC1)N(C([C@]21CC=2C(=NC=C(C2)C(=O)OCC)C1)=O)COCC[Si](C)(C)C | C23H28BrN3O4Si
